US09024027B2
Step 1: Preparation of tert-butyl 2-(5-(N-(2-hydroxyethyl)-methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (209)
To a stirred solution of tert-butyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (1 g, 2.82 mmol) (prepared in an analogous manner as previously described in Example 34, Scheme 34, Steps 1, 2, 3) in acetonitrile (15 ml), K2CO3 (0.585 g, 4.23 mmol) and 2-bromoethanol (0.500 ml, 7.05 mmol) were added, and the reaction was heated under MW irradiation at 110° C. for 3 hours. The insoluble inorganic salts were filtered off, and the filtrate was evaporated to dryness. The resulting crude tert-butyl 2-(5-(N-(2-hydroxyethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (1.12 g, 2.81 mmol, 100% yield MS/ESI+ not detectable [MH]+) was used without further purification.

reactant | tert-butyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 2.82 mmol, 1 g | CS(=O)(=O)NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C15H18N2O6S
reactant | K2CO3 | 4.23 mmol, 0.585 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethanol | 7.05 mmol, 0.500 ml | BrCCO | C2H5BrO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | tert-butyl 2-(5-(N-(2-hydroxyethyl)-methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 100% yield | OCCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C17H22N2O7S
